US07205306B2
5-Chloro-1-[(1S)-1-cyclopropylpropyl]-3-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dichloro-1-[(1S)-1-cyclopropylpropyl]-2(1H)-pyrazinone and 5,7-dichloroindoline as the starting materials. mp 157–159° C.; 1H NMR (300 MHz, CDCl3): δ 7.15 (s, 1 H), 7.09 (s, 1 H), 6.99 (s, 1 H), 4.34–4.24 (m, 2 H), 4.08–3.99 (m, 0.5 H), 3.11 (t, J=7.9 Hz, 2 H), 2.42–2.36 (m, 0.5 H), 2.16–2.00 (m, 1 H), 1.94–1.74 (m, 1 H), 1.07–0.99 (m, 1 H), 0.94–0.86 (m, 3 H), 0.80–0.71 (m, 1 H), 0.53–0.42 (m, 2 H), 0.36–0.20 (m, 1 H); HRMS (ESI) calcd for C18H19N3OCl3 (M+H)+: 398.0594; found m/z 398.0602.

reactant | 3,5-dichloro-1-[(1S)-1-cyclopropylpropyl]-2(1H)-pyrazinone | ClC=1C(N(C=C(N1)Cl)[C@@H](CC)C1CC1)=O | C10H12Cl2N2O
reactant | 5,7-dichloroindoline | ClC=1C=C2CCNC2=C(C1)Cl | C8H7Cl2N
product | 5-Chloro-1-[(1S)-1-cyclopropylpropyl]-3-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-2(1H)-pyrazinone | ClC=1N=C(C(N(C1)[C@@H](CC)C1CC1)=O)N1CCC2=CC(=CC(=C12)Cl)Cl | C18H18Cl3N3O
